### PR TITLE
feat(Geometry/Euclidean): unoriented angle eq of oriented angle eq

### PR DESCRIPTION
**Pull request by wangying11123**
This PR adds two theorems to Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean 

`angle_eq_of_oangle_eq`: If two oriented angles are equal, and the four endpoint pairs are nondegenerate, then the
corresponding unoriented angles are equal.

`angle_eq_of_oangle_eq_not_collinear`: If two oriented angles are equal, and the first triple is not collinear, then the
corresponding unoriented angles are equal.

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean [hunk 1]
```diff
@@ -404,6 +404,28 @@ lemma angle_eq_iff_oangle_eq_neg_of_sign_eq_neg {p₁ p₂ p₃ p₄ p₅ p₆ :
   o.angle_eq_iff_oangle_eq_neg_of_sign_eq_neg (vsub_ne_zero.2 hp₁) (vsub_ne_zero.2 hp₃)
     (vsub_ne_zero.2 hp₄) (vsub_ne_zero.2 hp₆) hs
 
+/-- If two oriented angles are equal, and the four endpoint pairs are nondegenerate, then the
+corresponding unoriented angles are equal. -/
+theorem angle_eq_of_oangle_eq {p₁ p₂ p₃ p₄ p₅ p₆ : P} (h : ∡ p₁ p₂ p₃ = ∡ p₄ p₅ p₆)
+  (h1 : p₂ ≠ p₁) (h2 : p₂ ≠ p₃) (h3 : p₅ ≠ p₄) (h4 : p₅ ≠ p₆) :
```
Comment (plp127) [inline Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean]:
```suggestion
    (h1 : p₂ ≠ p₁) (h2 : p₂ ≠ p₃) (h3 : p₅ ≠ p₄) (h4 : p₅ ≠ p₆) :
```
According to the [style guide](https://leanprover-community.github.io/contribute/style.html), the statement of a theorem should be indented four spaces.

File: Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean [hunk 2]
```diff
@@ -404,6 +404,28 @@ lemma angle_eq_iff_oangle_eq_neg_of_sign_eq_neg {p₁ p₂ p₃ p₄ p₅ p₆ :
...
+    ∠ p₁ p₂ p₃ = ∠ p₄ p₅ p₆ := by
+  rw[angle_eq_abs_oangle_toReal h1.symm h2.symm, angle_eq_abs_oangle_toReal h3.symm h4.symm, h]
```
Comment (plp127) [inline Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean]:
```suggestion
  rw [angle_eq_abs_oangle_toReal h1.symm h2.symm, angle_eq_abs_oangle_toReal h3.symm h4.symm, h]
```

File: Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean [hunk 3]
```diff
@@ -404,6 +404,28 @@ lemma angle_eq_iff_oangle_eq_neg_of_sign_eq_neg {p₁ p₂ p₃ p₄ p₅ p₆ :
...
+
+/-- If two oriented angles are equal, and the first triple is not collinear, then the
+corresponding unoriented angles are equal. -/
+theorem angle_eq_of_oangle_eq_not_collinear {p₁ p₂ p₃ p₄ p₅ p₆ : P}
+    (h_not_col1 : ¬ Collinear ℝ ({p₁, p₂, p₃} : Set P)) (h : ∡ p₁ p₂ p₃ = ∡ p₄ p₅ p₆) :
```
Comment (plp127) [inline Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean]: Do we need the annotation `({p₁, p₂, p₃} : Set P)` here? Or can you just put `{p₁, p₂, p₃}`?

Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean]: Yes, it is not necessary to write `Set P`.I have fixed this problem. Thank you very much!

File: Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean [hunk 4]
```diff
@@ -404,6 +404,28 @@ lemma angle_eq_iff_oangle_eq_neg_of_sign_eq_neg {p₁ p₂ p₃ p₄ p₅ p₆ :
   o.angle_eq_iff_oangle_eq_neg_of_sign_eq_neg (vsub_ne_zero.2 hp₁) (vsub_ne_zero.2 hp₃)
     (vsub_ne_zero.2 hp₄) (vsub_ne_zero.2 hp₆) hs
 
+/-- If two oriented angles are equal, and the four endpoint pairs are nondegenerate, then the
+corresponding unoriented angles are equal. -/
+theorem angle_eq_of_oangle_eq {p₁ p₂ p₃ p₄ p₅ p₆ : P} (h : ∡ p₁ p₂ p₃ = ∡ p₄ p₅ p₆)
+    (h1 : p₂ ≠ p₁) (h2 : p₂ ≠ p₃) (h3 : p₅ ≠ p₄) (h4 : p₅ ≠ p₆) :
```
Comment (pepamontero) [inline Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean:410]:
```suggestion
    (hp₁ : p₁ ≠ p₂) (hp₃ : p₃ ≠ p₂) (hp₄ : p₄ ≠ p₅) (hp₆ : p₆ ≠ p₅) :
```

Using this you match the style of previous lemmas

File: Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean [hunk 5]
```diff
@@ -404,6 +404,28 @@ lemma angle_eq_iff_oangle_eq_neg_of_sign_eq_neg {p₁ p₂ p₃ p₄ p₅ p₆ :
...
+    ∠ p₁ p₂ p₃ = ∠ p₄ p₅ p₆ := by
+  rw [angle_eq_abs_oangle_toReal h1.symm h2.symm, angle_eq_abs_oangle_toReal h3.symm h4.symm, h]
```
Comment (pepamontero) [inline Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean:412]: After changing the variable names above this could be derived from a previous lemma:


```suggestion
    ∠ p₁ p₂ p₃ = ∠ p₄ p₅ p₆ :=
  (angle_eq_iff_oangle_eq_of_sign_eq hp₁ hp₃ hp₄ hp₆ (by rw [h])).2 h
```

File: Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean [hunk 6]
```diff
@@ -404,6 +404,28 @@ lemma angle_eq_iff_oangle_eq_neg_of_sign_eq_neg {p₁ p₂ p₃ p₄ p₅ p₆ :
...
+
+/-- If two oriented angles are equal, and the first triple is not collinear, then the
+corresponding unoriented angles are equal. -/
+theorem angle_eq_of_oangle_eq_not_collinear {p₁ p₂ p₃ p₄ p₅ p₆ : P}
```
Comment (pepamontero) [inline Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean:416]: I believe you must add several "of" for each hypothesis. For example this lemma in the same file: `oangle_eq_neg_of_angle_eq_of_sign_eq_neg`

```suggestion
theorem angle_eq_of_oangle_of_eq_not_collinear {p₁ p₂ p₃ p₄ p₅ p₆ : P}
```

Also maybe it would be consistent to change the order of hypothesis `h` and `h_not_col1` to match the name

File: Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean [hunk 7]
```diff
@@ -404,6 +404,28 @@ lemma angle_eq_iff_oangle_eq_neg_of_sign_eq_neg {p₁ p₂ p₃ p₄ p₅ p₆ :
...
+    (h_not_col1 : ¬ Collinear ℝ {p₁, p₂, p₃}) (h : ∡ p₁ p₂ p₃ = ∡ p₄ p₅ p₆) :
```
Comment (pepamontero) [inline Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean:417]: For the name of this variable, other places in the file use `hc` for `Collinear`, maybe `hc` or `hnc` could be used here? Or even `hnc₁₂₃`, I've also seen this in the file.

File: Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean [hunk 8]
```diff
@@ -404,6 +404,28 @@ lemma angle_eq_iff_oangle_eq_neg_of_sign_eq_neg {p₁ p₂ p₃ p₄ p₅ p₆ :
...
+    ∠ p₁ p₂ p₃ = ∠ p₄ p₅ p₆ := by
+  have h_ne1: p₂ ≠ p₁ := (ne₁₂_of_not_collinear h_not_col1).symm
+  have h_ne2: p₂ ≠ p₃ := (ne₂₃_of_not_collinear h_not_col1)
+  have h_not_col2: ¬ Collinear ℝ {p₄, p₅, p₆} := by
+    have angle_eq : 2 • ∡ p₁ p₂ p₃ = 2 • ∡ p₄ p₅ p₆ := by simp_rw [h]
+    rw [← collinear_iff_of_two_zsmul_oangle_eq angle_eq]
+    exact h_not_col1
```
Comment (pepamontero) [inline Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean:424]: You can shorten this like this:

```suggestion
  have h_not_col2 : ¬ Collinear ℝ {p₄, p₅, p₆} :=
    (collinear_iff_of_two_zsmul_oangle_eq (by rw [h])).not.mp h_not_col1
```

(also you should add space before `:`)

File: Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean [hunk 9]
```diff
@@ -404,6 +404,28 @@ lemma angle_eq_iff_oangle_eq_neg_of_sign_eq_neg {p₁ p₂ p₃ p₄ p₅ p₆ :
...
+  have h_ne3: p₅ ≠ p₄ := (ne₁₂_of_not_collinear h_not_col2).symm
+  have h_ne4: p₅ ≠ p₆ := (ne₂₃_of_not_collinear h_not_col2)
+  exact angle_eq_of_oangle_eq h h_ne1 h_ne2 h_ne3 h_ne4
```
Comment (pepamontero) [inline Mathlib/Geometry/Euclidean/Angle/Oriented/Affine.lean:427]: I tipically try to avoid having so many `have`s. Notice that the proof of each `h_ne` is very short, so once you've proved `h_not_col2` you can easily inline all the `h_ne`'s into this exact. Like

```
exact angle_eq_of_oangle_eq h
    (ne₁₂_of_not_collinear h_not_col1).symm (ne₂₃_of_not_collinear h_not_col1)
    ...
```

I think this makes the proof a bit more readable.

**Review by pepamontero — COMMENTED** [review]
Thanks for these! They seem to be useful additions. I have left a couple of comments about consistency with the rest of the file and shortening the proofs a bit. Hope it helps!

**Comment by benpigchu** [comment]
t-euclidean-geometry
